US08859774B2
A solution of (R)-tert-butyl 1-(4-fluorophenyl)-4a-(R/S)-(hydroxy(pyridin-2-yl)methyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate (410 mg, 0.86 mmol) in dry dichloromethane (10 mL) was treated with 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one (547 mg, 1.29 mmol; Dess-Martin periodinane) and the reaction mixture was stirred for 1 hour at room temperature. The reaction mixture was cooled and treated with saturated sodium hydrogen carbonate solution (20 mL) followed by dichloromethane (10 mL). The mixture was stirred for 10 minutes and the phases were separated. The aqueous phase was extracted with further dichloromethane (×2) and the combined organic phases dried over sodium sulfate. The solids were removed by filtration, the filtrate was concentrated under reduced pressure and the residue was purified by column chromatography on silica gel (gradient: 20-40% ethyl acetate in cyclohexane) to afford (R)-tert-butyl 1-(4-fluorophenyl)-4a-picolinoyl-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate as a pale yellow foam (185 mg). LCMS (Method B, ESI): RT 4.13 min, m+H=475.5; 1H NMR (400 MHz, CDCl3): δ 8.68 (d, J=4.8 Hz, 2 H); 7.44-7.45 (m, 5 H); 7.15-7.16 (m, 3 H); 6.51 (s, 2 H); 2.83 (br s, 5 H); 2.49 (s, 1H); 1.43 (s, 9 H).

reactant | (R)-tert-butyl 1-(4-fluorophenyl)-4a-(R/S)-(hydroxy(pyridin-2-yl)methyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate | 0.86 mmol, 410 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(CC1(C2)[C@H](C2=NC=CC=C2)O)C(=O)OC(C)(C)C | C27H29FN4O3
reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 1.29 mmol, 547 mg | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium hydrogen carbonate | 20 mL | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (R)-tert-butyl 1-(4-fluorophenyl)-4a-picolinoyl-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate | 185 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(C2=NC=CC=C2)=O)C(=O)OC(C)(C)C | C27H27FN4O3
